US08937183B2
Synthesis of 8-benzyl-2-(furan-2-ylmethyl)-6-phenyl-3-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)oxy)imidazo[1,2-a]pyrazine (4759).
To a solution of 8-benzyl-2-(furan-2-ylmethyl)-6-phenylimidazo[1,2-a]pyrazin-3(7H)-one (50 mg, 0.13 mmol) was added 2-(4-(bromomethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (47 mg, 0.16 mmol), potassium carbonate (27 mg, 0.20 mmol) and potassium iodide (33 mg, 0.20 mmol). The reaction mixture was stirred at room temperature for 1 h and heat to 40° C. until HPLC shows the completion of the reaction. After cooling down, the reaction mixture was extracted with ethyl acetate/water. The organic layer was collected and dried over magnesium sulfate. After evaporation, the residue was purified with flash chromatography to give the product as yellow solid (30 mg, 49%). 1H NMR (300 MHz, CD2Cl2, δ): 7.79-7.23 (m, 18H), 7.32 (d, J=6.0 Hz, 2H), 5.11 (s, 2H), 4.53 (s, 2H), 4.15 (s, 2H), 1.53 (s, 12H); MS (ESI) m/z 597.41.

reactant | 8-benzyl-2-(furan-2-ylmethyl)-6-phenylimidazo[1,2-a]pyrazin-3(7H)-one | 0.13 mmol, 50 mg | C(C1=CC=CC=C1)C1=C2N(C=C(N1)C1=CC=CC=C1)C(C(=N2)CC=2OC=CC2)=O | C24H19N3O2
reactant | 2-(4-(bromomethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.16 mmol, 47 mg | BrCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H18BBrO2
reactant | potassium carbonate | 0.20 mmol, 27 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.20 mmol, 33 mg | [I-].[K+]
product | 8-benzyl-2-(furan-2-ylmethyl)-6-phenyl-3-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)oxy)imidazo[1,2-a]pyrazine | 30 mg, 49% | C(C1=CC=CC=C1)C=1C=2N(C=C(N1)C1=CC=CC=C1)C(=C(N2)CC=2OC=CC2)OCC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C | C37H36BN3O4
